US05110955
A solution of 1.22 g (3.5 mmol) of (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl benzoate in 10 ml of THF was treated dropwise with a solution of 0.9 g of sodium dithionite in 8 ml of water. After 1 hour the mixture was extracted with chloroform (2 x) and the combined extracts were washed three times with water. The residue remaining after removal of the solvent was washed with hexane and dried under vacuum, yielding 1.05 g of colourless (E)-5-(2,5-dihydroxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl benzoate. M.P. 112°-114° C.

reactant | (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl benzoate | 3.5 mmol, 1.22 g | C(C1=CC=CC=C1)(=O)OC\C=C(\CCC1=C(C(C(=C(C1=O)C)C)=O)C)/C | C22H24O4
reactant | sodium dithionite | 0.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | (E)-5-(2,5-dihydroxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl benzoate | 1.05 g | C(C1=CC=CC=C1)(=O)OC\C=C(\CCC1=C(C(=C(C(=C1C)O)C)C)O)/C | C22H26O4
